US07666871B2
4′-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-biphenyl-4-carboxylic acid amide
The title compound is prepared in a manner substantially analogous to example 133 starting from 4-aminocarbonyl phenyl boronic acid (236 mg, 1.43 mmol) and 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 mmol) to give 17 mg (15%). MS (m/e) 390.3 (M+1)

reactant | 4-aminocarbonyl phenyl boronic acid | 1.43 mmol, 236 mg | NC(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 0.287 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
product | 4′-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-biphenyl-4-carboxylic acid amide | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N)CCN1[C@@H](CCC1)C | C24H27N3O2
